US07989457B2
6-Chloro-nicotinic acid methyl ester (6 g, 34.97 mmol) is dissolved into anhydrous tetrahydrofuran (THF) (200 mL) and then cooled to −30° C. while stirring under nitrogen. N,O-dimethylhydroxylamine hydrochloride (5.12 g, 52.46 mmol) is then added to the solution in one portion. Isopropyl magnesium chloride (52 mL, 2M in THF, 105 mmol) is slowly added to the cooled suspension over 1 h. After complete consumption of starting material, then 30% solution of ammonium chloride is added with stirring. The reaction is diluted with diethyl ether and extracted. The organic layer is collected and washed with cold water (2×) and brine. The solution is then dried over anhydrous sodium sulfate, filtered, and concentrated. The 6-chloro-N-methoxy-N-methyl-nicotinamide (6.20 g, 30.90 mmol) is obtained in pure form after flash column chromatography. 1H NMR (CDCL3, 400 MHz): δ 8.78 (d, J=1.5 Hz, 1H), 8.02 (dd, J=1.5 and 8.3 Hz, 1H), 7.40 (d, J=8.3 Hz, 1H), 3.57 (s, 3H), 3.40 (s, 3H); MS m/z 218, 201, 188, 171.

reactant | 6-Chloro-nicotinic acid methyl ester | 34.97 mmol, 6 g | COC(C1=CN=C(C=C1)Cl)=O | C7H6ClNO2
reactant | N,O-dimethylhydroxylamine hydrochloride | 52.46 mmol, 5.12 g | Cl.CNOC
reactant | Isopropyl magnesium chloride | 105 mmol, 2M, 52 mL | C(C)(C)[Mg]Cl
solvent | tetrahydrofuran | 200 mL | O1CCCC1 | C4H8O
product | 6-chloro-N-methoxy-N-methyl-nicotinamide | 30.90 mmol, 6.20 g | ClC1=NC=C(C(=O)N(C)OC)C=C1 | C8H9ClN2O2
